US07259182B2
A stirred slurry of 6.56 g (62 mmol) Na2CO3, 3.03 g (15.5 mmol) 5-bromoindole, 3.415 g (16.5 mmol) 4-(trifluoromethoxy)phenylboronic acid, and 0.50 g (0.43 mmol) tetrakistriphenylphosphine palladium was heated to reflux for 3 hr. The reaction mixture was allowed to cool and was then poured into 300 mL water and shaken with ethyl acetate. The combined aqueous and organic phases were filtered and the organic layer was separated, dried over MgSO4, and concentrated. The residue was chromatographed on silica (eluting with 20–33% EtOAc-hexane) to afford 2.49 g (58%) 5-[4-(trifluoromethoxy)phenyl]indole as a solid.

reactant | Na2CO3 | 62 mmol, 6.56 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-bromoindole | 15.5 mmol, 3.03 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 4-(trifluoromethoxy)phenylboronic acid | 16.5 mmol, 3.415 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | water | 300 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[4-(trifluoromethoxy)phenyl]indole | 2.49 g, 58% | FC(OC1=CC=C(C=C1)C=1C=C2C=CNC2=CC1)(F)F | C15H10F3NO
